US04627933
A mixture of 34.9 g of p-bromobenzyl p-ethoxyphenylacetate (obtainable by esterification), 10 g of Cu2 (CN)2, 120 ml of pyridine and 60 ml of N-methylpyrrolidone is heated at 150° for 2 hours. The mixture is cooled; a solution of 120 g of FeCl3.6H2O in 600 ml of 20% hydrochloric acid is added; and the mixture is warmed at 70° for 1.5 hours while stirring and worked up in a customary manner to give p-cyanobenzyl p-ethoxyphenylacetate, m.p. 59°, c.p. -40°.

reactant | p-bromobenzyl p-ethoxyphenylacetate | 34.9 g | C(C)OC1=CC=C(C=C1)CC(=O)OCC1=CC=C(C=C1)Br | C17H17BrO3
reactant | (CN)2 | C(#N)C#N | C2N2
reactant | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
reactant | N-methylpyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
solvent | hydrochloric acid | 600 ml | Cl | ClH
product | p-cyanobenzyl p-ethoxyphenylacetate | C(C)OC1=CC=C(C=C1)CC(=O)OCC1=CC=C(C=C1)C#N | C18H17NO3
